US04271164
A mixture of 76.5 g of 4-amino-2-methylpyrimidine-5-carbonitrile, 380 ml of 97% formic acid, 380 ml of water, and 8 g of Raney nickel catalyst is treated in a Parr pressure apparatus with hydrogen gas at an initial pressure of 51 psi at room temperature for 2.75 hours. The catalyst is removed by filtration and the filtrate is treated with 47.5 ml of concentrated hydrochloric acid and evaporated at reduced pressure. The residue is dissolved in hot water, treated with charcoal and filtered. Neutralization of the filtrate with concentrated ammonium hydroxide precipitates the product which is then collected by filtration and washed with water. Recrystallization from ethanol gives 37.9 g of 4-amino-2-methylpyrimidine-5-carboxaldehyde, mp 191°-192.5° C.

reactant | 4-amino-2-methylpyrimidine-5-carbonitrile | 76.5 g | NC1=NC(=NC=C1C#N)C | C6H6N4
reactant | formic acid | 380 ml | C(=O)O | CH2O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 8 g | [Ni] | Ni
solvent | water | 380 ml | O | H2O
product | 4-amino-2-methylpyrimidine-5-carboxaldehyde | 37.9 g | NC1=NC(=NC=C1C=O)C | C6H7N3O
